US08614340B2
5-[(3-phenoxypropyl)thio]-1-phenyl-1H-tetrazole
3-phenoxypropyl bromide (1.53 g) was dissolved in acetone (9 mL), 1-phenyl-5-mercapto-1H-tetrazole (1.27 g) and potassium carbonate (985 mg) were added, and the mixture was stirred at room temperature for 3 hours. To the reaction solution was added water, and the extract obtained by extraction with ethyl acetate was washed with water and a saturated saline, dried with anhydrous magnesium sulfate, and concentrated under reduced pressure to obtain a titled compound (2.23 g) having the following physical property values.

reactant | 3-phenoxypropyl bromide | 1.53 g | O(C1=CC=CC=C1)CCCBr | C9H11BrO
reactant | 1-phenyl-5-mercapto-1H-tetrazole | 1.27 g | C1(=CC=CC=C1)N1N=NN=C1S | C7H6N4S
reactant | potassium carbonate | 985 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetone | 9 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[(3-phenoxypropyl)thio]-1-phenyl-1H-tetrazole | 2.23 g | O(C1=CC=CC=C1)CCCSC1=NN=NN1C1=CC=CC=C1 | C16H16N4OS
